US04894385
Methyl 4-[1-(4-trifluoromethylphenyl)-2-(imidazol-1-yl)ethylthio]benzoate
292 mg of a 55% w/w suspension of sodium hydride in mineral oil were added to 1.13 g of methyl 4-mercaptobenzoate in 8 ml of dry dimethylformamide, whilst ice-cooling, and the resulting mixture was stirred at room temperature for 30 minutes. 1.61 g of 1-[2-chloro-2-(4-trifluoromethylphenyl)ethyl]imidazole in 7 ml of dry dimethylformamide was added to this solution and the resulting mixture was heated at 60°-70° C. for 6 hours. At the end of this time, the reaction mixture was treated and purified by the same method as described in Example 1, to give 844 mg of the title compound as an oil.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 4-mercaptobenzoate | 1.13 g | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | 1-[2-chloro-2-(4-trifluoromethylphenyl)ethyl]imidazole | 1.61 g | ClC(CN1C=NC=C1)C1=CC=C(C=C1)C(F)(F)F | C12H10ClF3N2
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | Methyl 4-[1-(4-trifluoromethylphenyl)-2-(imidazol-1-yl)ethylthio]benzoate | 844 mg | FC(C1=CC=C(C=C1)C(CN1C=NC=C1)SC1=CC=C(C(=O)OC)C=C1)(F)F | C20H17F3N2O2S
